US04306065
1-(2-Phenyl-4-quinazolinyl)-3-pyrrolidinol, Hemihydrate
A mixture containing 12 g (0.05 mole) of 2-phenyl 4-chloroquinazoline, 4.3 g (0.05 mole) of 3-hydroxy pyrrolidine and 150 ml of isopropanol was refluxed for 11/2 hrs. The resulting reaction mixture was filtered. The filtrate was adjusted to pH 10 with sodium hydroxide and concentrated under reduced pressure to dryness. The semi-solid residue was recrystallized twice with hot water, a white crystalline solid was obtained. The white crystalline solid was dissolved in aqueous solution adjusted to pH=3 with hydrochloric acid and reprecipitated by adjusting to pH=7.5 using sodium hydroxide. This white crystalline solid was filtered and recrystallized with hot water to yield 7.3 g of the title compound, m.p. 180°-182° C.

reactant | 2-phenyl 4-chloroquinazoline | 0.05 mole, 12 g | C1(=CC=CC=C1)C1=NC2=CC=CC=C2C(=N1)Cl | C14H9ClN2
reactant | 3-hydroxy pyrrolidine | 0.05 mole, 4.3 g | OC1CNCC1 | C4H9NO
reactant | hydrochloric acid | Cl | ClH
solvent | isopropanol | 150 ml | C(C)(C)O | C3H8O
product | 1-(2-Phenyl-4-quinazolinyl)-3-pyrrolidinol, Hemihydrate | 7.3 g | O.C1(=CC=CC=C1)C1=NC2=CC=CC=C2C(=N1)N1CC(CC1)O.C1(=CC=CC=C1)C1=NC2=CC=CC=C2C(=N1)N1CC(CC1)O | InChI=1S/2C18H17N3O.H2O/c2*22-14-10-11-21(12-14)18-15-8-4-5-9-16(15)19-17(20-18)13-6-2-1-3-7-13;/h2*1-9,14,22H,10-12H2;1H2
